US06586429B2
A mixture of (R)-3-(5-acetoxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione (100 mg, 0.276 mmol) and a 1.0 M solution of hydrogen chloride in diethylether(1.0 ml, 1.0 mmol) in methanol (15 ml) was stirred at 70° C. for 3 hours. Concentration under reduced pressure provided (R)-3-(5-hydroxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione (CT-13431) (71 mg, 80% yield) as a white powder.

reactant | (R)-3-(5-acetoxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione | 0.276 mmol, 100 mg | C(C)(=O)O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCCN3)C)=O)C | C17H25N5O4
reactant | hydrogen chloride | Cl | ClH
reactant | diethylether | 1.0 mmol, 1.0 ml | C(C)OCC | C4H10O
solvent | methanol | 15 ml | CO | CH4O
product | (R)-3-(5-hydroxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione | 71 mg, 80% yield | O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCCN3)C)=O)C | C15H23N5O3
